* Gate Drive Loop EMI Validation
* Template for placement-dependent simulation
* 
* Parameters substituted from placement:
*   {{GATE_LOOP_INDUCTANCE}} - Gate drive loop inductance (H)
*   {{GATE_RESISTANCE}} - Total gate path resistance (ohms)
*
* Validates: Switching waveform quality, ringing, di/dt

* Placement-derived parameters
.param L_GATE_LOOP = {{GATE_LOOP_INDUCTANCE}}
.param R_GATE = {{GATE_RESISTANCE}}

* Fixed circuit parameters (from Temper design)
.param V_SUPPLY = 15          ; Gate driver supply voltage
.param C_GATE = 2.7n          ; IKW40N120H3 typical input capacitance
.param R_GATE_INT = 1.5       ; IGBT internal gate resistance

* Gate Driver Model (simplified UCC21550-style push-pull)
* Strong output: ~4A peak source/sink
.subckt GATE_DRIVER IN OUT VDD GND
* Input threshold at 1.5V, output follows VDD or 0
E_out OUT GND VALUE={ (V(IN) > 1.5) ? V(VDD) : 0 }
* Output impedance modeled in external components
.ends

* Test Circuit
* Power supplies
V_vdd vdd 0 DC {V_SUPPLY}
V_pwm pwm_in 0 PULSE(0 3.3 100n 5n 5n 10u 20u)

* Gate driver
X_drv pwm_in gate_drv vdd 0 GATE_DRIVER

* Gate loop with placement-dependent inductance
* Driver output -> Loop inductance -> External gate resistor -> IGBT gate
L_loop gate_drv gate_mid {L_GATE_LOOP} IC=0
R_ext gate_mid gate {R_GATE}

* IGBT gate model (simplified RC)
R_gate_int gate gate_int {R_GATE_INT}
C_gate gate_int 0 {C_GATE} IC=0

* Analysis - fast transient to capture ringing
.tran 1n 25u UIC

* Control and measurements
.control
run

* Measure peak gate voltage (check for overshoot/ringing)
meas tran V_GATE_PEAK MAX v(gate_int) FROM=100n TO=15u
meas tran V_GATE_MIN MIN v(gate_int) FROM=100n TO=15u

* Measure rise time (10% to 90% of 15V)
meas tran T_RISE TRIG v(gate_int) VAL=1.5 RISE=1 TARG v(gate_int) VAL=13.5 RISE=1

* Measure fall time
meas tran T_FALL TRIG v(gate_int) VAL=13.5 FALL=1 TARG v(gate_int) VAL=1.5 FALL=1

* Measure ringing - peak-to-peak during settling period after first rise
meas tran V_RING_PP PP v(gate_int) FROM=200n TO=2u

* Calculate overshoot percentage
* Note: using let with measured values
let v_target = 15
let v_overshoot_pct = 100 * (V_GATE_PEAK - v_target) / v_target
let v_undershoot_pct = 100 * (0 - V_GATE_MIN) / v_target

* Print all measurements
echo "=== Gate Drive Validation Results ==="
print V_GATE_PEAK V_GATE_MIN
print T_RISE T_FALL V_RING_PP
print v_overshoot_pct v_undershoot_pct

.endc
.end
