F2 open idealized immediate gate off, retained nominal current case; numerical oracle only
.param vin=169.7056274847714 v0=389.61538461538464 i0=23.23183831948713 ll=180u cc=470n
Vline line 0 DC {vin}
Lboost line anode {ll} IC={i0}
Dboost anode out ideal
.model ideal D(IS=1e-12 N=1 RS=0.001 CJO=10p TT=0)
Cout out 0 {cc} IC={v0}
Rleak out 0 1e12
.options reltol=1e-7 abstol=1e-12 vntol=1e-8 method=gear
.tran 5n 11u 0 5n UIC
.measure tran vpeak MAX v(out)
.measure tran source_q INTEG i(Lboost)
.control
set noaskquit
run
set wr_singlescale
set wr_vecnames
wrdata nominal-model-5ns.dat v(out) i(Lboost) v(anode)
quit
.endc
.end
